US05190953
4-Amino-5-chloro-2-methoxybenzoic acid 1-azabicyclo[3.3.1]non-5-ylmethyl ester
A solution of 4-amino-5-chloro-2-methoxybenzoic acid (2.02 g, 10 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.70 g, 10.5 mmol), stirred for one hour, then degassed with a stream of nitrogen over 10 minutes. Meanwhile, a cooled (-10° C.) solution of 1-azabicyclo[3.3.1]nonane-5-methanol (1.71 g, 11 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated (via syringe) with 2.5N n-butyllithium/hexane (10.7 mmol), stirred for 30 minutes, concentrated in vacuo, and taken up in anhydrous tetrahydrofuran (10 mL) under nitrogen. The above prepared suspension was transferred into this solution, and the mixture was stirred overnight (18 hours) and concentrated in vacuo. The residue was partitioned between methylene chloride (100 mL) containing a little 2-propanol and saturated aqueous sodium carbonate (50 mL), and the organic layer was separated. The aqueous solution was extracted with methylene chloride (2×50 mL), and the combined organic solution was dried (Na2SO4), concentrated in vacuo and recrystallized from acetonitrile (2 crops) to afford 1.94 g (57%) of pale yellow solid; mp 152.5°-154.5° C.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 10 mmol, 2.02 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1,1'-carbonyldiimidazole | 10.5 mmol, 1.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-azabicyclo[3.3.1]nonane-5-methanol | 11 mmol, 1.71 g | N12CCCC(CCC1)(C2)CO | C9H17NO
reactant | n-butyllithium hexane | 10.7 mmol, 2.5N | C(CCC)[Li].CCCCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Amino-5-chloro-2-methoxybenzoic acid 1-azabicyclo[3.3.1]non-5-ylmethyl ester | 1.94 g, 57% | N12CCCC(CCC1)(C2)COC(C2=C(C=C(C(=C2)Cl)N)OC)=O | C17H23ClN2O3
